US03953604
A solution of resacetophenone (15.2 g), phenylglycidyl ether (15.0 g) and benzyltrimethylammonium hydroxide (5 drops of a 40% solution) in 2-ethoxyethanol (75 ml) was heated under reflux for 2 days. Removal of solvent under reduced pressure yielded a dark, viscous oil, which was allowed to stand for 48 hours, by which time it had crystallized to a solid mass. This was triturated with a mixture of ether and light petroleum (b.p. 40°-60°.), filtered, washed with a little more ether-petroleum and dried. Crystallization from methanol gave 1-(4-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-phenoxypropane as a greyish-white solid, 9.0 g, m.p. 63°-65°.

reactant | resacetophenone | 15.2 g | CC(=O)C1=C(C=C(C=C1)O)O | C8H8O3
reactant | phenylglycidyl ether | 15.0 g | C1(=CC=CC=C1)OCC1CO1 | C9H10O2
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | 2-ethoxyethanol | 75 ml | C(C)OCCO | C4H10O2
product | 1-(4-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-phenoxypropane | C(C)(=O)C1=C(C=C(OCC(COC2=CC=CC=C2)O)C=C1)O | C17H18O5
